US08420647B2
[2-Chloro-4-(2,5-dichloro-phenoxy)-6-methyl-pyridin-3-yl]-(4-cyclopropyl-3,4-dihydro-2H-quinoxalin-1-yl)-methanone
To a solution of 120 mg (0.355 mmol) lithium 2-chloro-4-(2,5-dichloro-phenoxy)-6-methyl-nicotinate in 3 mL dry N,N-dimethylformamide was added 0.30 mL (1.773 mmol) N-ethyldiisopropylamine and 163 mg (0.425 mmol) 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU, commercially available, CAS RN 148893-10-1) and 74 mg (0.425 mmol) 1-cyclopropyl-1,2,3,4-tetrahydro-quinoxaline (Example 8, intermediate a). The reaction mixture was stirred for 18 hours at room temperature and evaporated. The residue was purified on a preparative HPLC system (Phenomenex Gemini column) using a gradient of acetonitrile:water (containing 0.05% formic acid) (50:50 to 100:0) to provide 45 mg (26%) of the title compound as a light yellow foam (30%). MS (ESI): m/z=488.07 [M+H]+.

reactant | lithium 2-chloro-4-(2,5-dichloro-phenoxy)-6-methyl-nicotinate | 0.355 mmol, 120 mg | ClC1=C(C(=O)[O-])C(=CC(=N1)C)OC1=C(C=CC(=C1)Cl)Cl.[Li+]
reactant | N-ethyldiisopropylamine | 1.773 mmol, 0.30 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 0-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.425 mmol, 163 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-cyclopropyl-1,2,3,4-tetrahydro-quinoxaline | 0.425 mmol, 74 mg | C1(CC1)N1CCNC2=CC=CC=C12 | C11H14N2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | [2-Chloro-4-(2,5-dichloro-phenoxy)-6-methyl-pyridin-3-yl]-(4-cyclopropyl-3,4-dihydro-2H-quinoxalin-1-yl)-methanone | 45 mg | ClC1=NC(=CC(=C1C(=O)N1CCN(C2=CC=CC=C12)C1CC1)OC1=C(C=CC(=C1)Cl)Cl)C | C24H20Cl3N3O2
